US04409215
The mixture of benzhydryl 7-[2-(2-aminothiazol-4-yl)acetamido]-3-methylthiomethyl-3-cephem-4-carboxylate (3.3 g), trifluoroacetic acid (10 ml) and anisole (10 ml) in methylene chloride (10 ml) was stirred at 10° C. for an hour. After benzene (50 ml) was added to the reaction mixture, the trifluoroacetic acid therein was azeotropically removed under reduced pressure. The remained aqueous solution was poured into a mixture of ethyl acetate (100 ml) and water (100 ml), followed by adjusting to pH 7.5 with sodium bicarbonate. After separating out the aqueous solution, the organic solvent was removed therefrom by evaporation completely under reduced pressure, followed by adjusting to pH 3.0 with 10% hydrochloric acid. The precipitated solid was collected by filtration and then dried to give 7-[2-(2-aminothiazol-4-yl)acetamido]-3-methylthiomethyl-3-cephem-4-carboxylic acid (0.95 g).

reactant | benzhydryl 7-[2-(2-aminothiazol-4-yl)acetamido]-3-methylthiomethyl-3-cephem-4-carboxylate | 3.3 g | NC=1SC=C(N1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H26N4O4S3
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 10 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(2-aminothiazol-4-yl)acetamido]-3-methylthiomethyl-3-cephem-4-carboxylic acid | 0.95 g | NC=1SC=C(N1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC)C(=O)O)C1=O | C14H16N4O4S3
